US08802679B2
tert-Butyl piperazine-1-carboxylate (500 mg) was dissolved in NMP (10 ml), and 4-chloro-2-methylpyridine (685 mg) and tri-n-butylamine (498 mg) were added thereto, followed by stirring at 150° C. overnight. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain tert-butyl 4-(2-methylpyridin-4-yl)piperazine-1-carboxylate (667 mg).

reactant | tert-Butyl piperazine-1-carboxylate | 500 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-chloro-2-methylpyridine | 685 mg | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | tri-n-butylamine | 498 mg | C(CCC)N(CCCC)CCCC | C12H27N
reactant | water | O | H2O
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | tert-butyl 4-(2-methylpyridin-4-yl)piperazine-1-carboxylate | 667 mg | CC1=NC=CC(=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
